US04012510
100 mg. of 11β,17,21-trihydroxy-15α,16α-methylene-4-pregnene-3,20-dione is allowed to stand in 1 ml. of pyridine with 0.5 ml. of butyric anhydride for 18 hours at room temperature. The mixture is then stirred into ice water, decanted off from the thus-separated oil, and the latter is taken up in methylene chloride. After preparative thin-layer chromatography, 115 mg. of 11β,17-dihydroxy-21-butyryloxy-15α,16α-methylene-4-pregnene-3,20-dione is obtained.

reactant | 11β,17,21-trihydroxy-15α,16α-methylene-4-pregnene-3,20-dione | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2[C@@H]3[C@H]([C@](C(CO)=O)([C@]2(C1)C)O)C3)=O)C | C22H30O5
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 11β,17-dihydroxy-21-butyryloxy-15α,16α-methylene-4-pregnene-3,20-dione | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2[C@@H]3[C@H]([C@](C(COC(CCC)=O)=O)([C@]2(C1)C)O)C3)=O)C | C26H36O6
